US07256198B2
Step 3: N-(3′,3′-Dimethyl-3′, 4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)benzenesulfonamide
To a solution of 3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′amine (0.060 g 0.21 mmol, 1 eq) in CH2Cl2 (2 mL) was added Et3N (0.060 mL, 0.43 mmol, 2.05 eq) and benzenesulfonyl chloride (0.030 mL, 0.23 mmol, 1.07 eq). The reaction was stirred at rt 1 hour and concentrated. The crude residue purified by column chromatography using acetone/hexanes (30/70) as an eluent to give the title compound as a white solid (0.064 g, 71%). NMR (400 Mz, DMSO-d6): consistent

reactant | 3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′amine | 0.21 mmol, 0.060 g, 1 eq | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)N)C1)C | C16H21N3O2
reactant | Et3N | 0.43 mmol, 0.060 mL, 2.05 eq | CCN(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.23 mmol, 0.030 mL, 1.07 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3′,3′-Dimethyl-3′, 4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)benzenesulfonamide | 0.064 g, 71% | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)NS(=O)(=O)C3=CC=CC=C3)C1)C | C22H25N3O4S
